US04374843
1.78 g (0.0059 mol) of 2-hydroxymethyl-4-bromoacetylimidazole hydrobromide was dissolved in water and saturated sodium bicarbonate solution was added to precipitate the free base. This material was collected by filtration and dried and combined with 956 mg (0.0081 mol) of amidinothiourea in 60 ml acetone and heated to 70°. After 15 minutes heating a solid formed. The reaction mixture was cooled and the resultant solid was collected by filtration to give 1.65 g (87%) 2-guanidino-4-(2-hydroxymethyl-4-imidazolyl)thiazole hydrobromide, mp>310°. A sample was converted to the free base by dissolving in hot water and adding sodium bicarbonate solid to pH 10 to precipitate 2-guanidino-4-(2-hydroxymethyl-4-imidazolyl)thiazole free base. This material was dried over toluene at high vacuum to give a light tan solid, mp 208°-209° with decomposition. nmr (DMSO-d6) (δ): 7.16 (s, 1H); 6.83 (broad s, 4H) 6.68 (s, 1H); 4.45 (s, 2H); 3.46 (very broad s, 1H). High resolution mass spectrum, calcd for C8H10N6OS: 238.0638; found: 238.0654.

reactant | 2-hydroxymethyl-4-bromoacetylimidazole hydrobromide | 0.0059 mol, 1.78 g | Br.OCC=1NC=C(N1)C(CBr)=O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | amidinothiourea | 0.0081 mol, 956 mg | C(N)(=N)NC(=S)N | C2H6N4S
solvent | water | O | H2O
solvent | acetone | 60 ml | CC(=O)C | C3H6O
product | 2-guanidino-4-(2-hydroxymethyl-4-imidazolyl)thiazole hydrobromide | 1.65 g, 87% | Br.N(C(=N)N)C=1SC=C(N1)C=1N=C(NC1)CO | InChI=1S/C8H10N6OS.BrH/c9-7(10)14-8-13-5(3-16-8)4-1-11-6(2-15)12-4;/h1,3,15H,2H2,(H,11,12)(H4,9,10,13,14);1H
